US04128560
1-Methyl-2-oxocyclohexanepropionic Acid Methyl Ester (3, R1 and R7 = CH3, R2 = H, m = 3 and n = 2)
In the same manner but replacing 2-methylcyclohexanone with an equivalent amount of 2-methylcyclopentanone, 1-methyl-2-oxocyclopentanepropionic acid methyl ester, bp 88°-100° C./1.1 mm, nmr (CDCl3) δ 1.0 (s, 3H), 1.8 (m, 6H), 2.3 (m, 4H), 3.7 (s, 3H), is obtained.

reactant | 2-methylcyclohexanone | CC1C(CCCC1)=O | C7H12O
reactant | 2-methylcyclopentanone | CC1C(CCC1)=O | C6H10O
reactant | 1-methyl-2-oxocyclopentanepropionic acid methyl ester | COC(CCC1(C(CCC1)=O)C)=O | C10H16O3
product | 1-Methyl-2-oxocyclohexanepropionic Acid Methyl Ester | COC(CCC1(C(CCCC1)=O)C)=O | C11H18O3
